US08609699B2
Azetidine hydrochloride (10.3 g, 110 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (25.2 g, 131 mmol), 1-hydroxybenzotriazole (20.1 g, 131 mmol), and triethylamine (33.6 ml, 241 mmol) were added to a N,N-dimethylformamide solution (500 ml) of 1-(benzyloxy)benzoate (25 g, 110 mmol), and this mixture was stirred overnight at room temperature. Water was added to this reaction solution, this mixture was extracted with ethyl acetate twice, followed by washing the organic layer with water and a saturated saline solution, drying the organic layer with anhydrous sodium sulfate, and thereafter concentrating this solvent under reduced pressure. The obtained residue was crystallized from chloroform-diethyl ether to obtain 1-[4-(benzyloxy)-benzoyl]azetidine (23.0 g, yield: 79%) as an ecru solid.

reactant | Azetidine hydrochloride | 110 mmol, 10.3 g | Cl.N1CCC1
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 131 mmol, 25.2 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 131 mmol, 20.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 241 mmol, 33.6 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(benzyloxy)benzoate | 110 mmol, 25 g | C(C1=CC=CC=C1)OC1(C(=O)[O-])CC=CC=C1
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 1-[4-(benzyloxy)-benzoyl]azetidine | 23.0 g, yield: 79% | C(C1=CC=CC=C1)OC1=CC=C(C(=O)N2CCC2)C=C1 | C17H17NO2
